US04772600
2-(2-Chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid ethyl ester
Solid N-[3-[(2-chlorobenzoyl)amino]-2-pyridinyl]glycine ethyl ester, 15.0 g (0.045 mole) was heated in a Wood's metal bath at 210°-20° C. for 9 minutes. The residue was dissolved in methylene chloride, treated with Florisil® (90 g), and filtered. The filtrate was treated with decolorizing charcoal and filtered through a Celite pad to give a yellow filtrate. The filtrate was evaporated to an oil, which crystallized upon standing. The solid (3.0 g) was recrystallized from petroleum ether-tetrahydrofuran (minimum) by cooling in a freezer overnight. The solid was collected, washed with petroleum ether-tetrahydrofuran and dried under high vacuum at room temperature to give 1.62 g (11%) of title compound, mp 64°-66° C.

reactant | N-[3-[(2-chlorobenzoyl)amino]-2-pyridinyl]glycine ethyl ester | C(C)OC(CNC1=NC=CC=C1NC(C1=C(C=CC=C1)Cl)=O)=O | C16H16ClN3O3
reactant | Florisil | [O-][Si](=O)[O-].[Mg+2]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-(2-Chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid ethyl ester | 1.62 g, 11% | C(C)OC(CN1C(=NC=2C1=NC=CC2)C2=C(C=CC=C2)Cl)=O | C16H14ClN3O2
